US07402581B2
tert-Butyl [(2S)-2-(4-fluorophenyl)-4-oxobutyl]methylcarbamate (1.57 g, 5.3 mmol) and 4-azetidin-3-ylmorpholine (0.83 g, 5.8 mmol) were dissolved in CH2Cl2 (60 mL) together with DIPEA (1.4 g, 10.6 mmol). The mixture was stirred for 20 min and then sodium triacetoxyborohydride (1.6 g, 7.4 mmol) was added. The mixture was stirred at room temperature for 6 h and then the solvent was removed by evaporation. The residue was partitioned between an aqueous solution of NaHCO3 and ethyl acetate. The aqueous phase was extracted with ethyl acetate and the organic solution was dried over MgSO4 and then removed by evaporation. The product was chromatographed on a silica gel using a mixture of methanol and CH2Cl2 (5%-20% methanol) and there was obtained 440 mg (20%) tert-butyl [(2S)-2-(4-fluorophenyl)-4-(3-morpholin-4ylazetidin-1-yl)butyl]methylcarbamate as an oil. 1H NMR (400 MHz, CDCl3): 1.3 (s, 9H), 1.4-1.6 (m, 2H), 2.1-2.3 (b, 5H), 2.5-3.8 (cm, 16H), 6.9 (t, 2H), 7.0-7.1 (b, 2H); LCMS: m/z 422 (M+1)+.

reactant | tert-Butyl [(2S)-2-(4-fluorophenyl)-4-oxobutyl]methylcarbamate | 5.3 mmol, 1.57 g | FC1=CC=C(C=C1)[C@@H](CN(C(OC(C)(C)C)=O)C)CC=O | C16H22FNO3
reactant | 4-azetidin-3-ylmorpholine | 5.8 mmol, 0.83 g | N1CC(C1)N1CCOCC1 | C7H14N2O
reactant | DIPEA | 10.6 mmol, 1.4 g | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium triacetoxyborohydride | 7.4 mmol, 1.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl [(2S)-2-(4-fluorophenyl)-4-(3-morpholin-4ylazetidin-1-yl)butyl]methylcarbamate | 440 mg, 20% | FC1=CC=C(C=C1)[C@@H](CN(C(OC(C)(C)C)=O)C)CCN1CC(C1)N1CCOCC1 | C23H36FN3O3
